US06583135B2
Preparation of 3-Benzoyl-9-phenyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole
A mixture of 3-benzoyl-9-bromo-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (1.477 g, 4.00 mmol) and tetrakis(triphenylphosphine)palladium (0.462 g, 0.40 mmol) in dimethoxyethane (15.0 mL) and a solution of phenylboronic acid (0.585 g, 4.80 mmol) in dimethoxyethane (5.0 mL) and sodium carbonate (2 M, 12.0 mL) were reacted in a manner similar to Preparation 1. Column chromatography (silica gel, 60% EtOAc/hexane) afforded 0.817 g (56%) of the title compound as a solid: mp 78-79° C.; 1H NMR (300 MHz, CDCl3) δ 8.10-7.85, 7.71-7.57, 7.43-7.29, 7.18-7.05, 4.16-4.04, 3.70-3.65, 3.20-3.05, 2.95-2.80; MS (ESI+) m/z 367 (M++H).

reactant | 3-benzoyl-9-bromo-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 4.00 mmol, 1.477 g | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC(=CC3C2CC1)Br | C19H17BrN2O
reactant | phenylboronic acid | 4.80 mmol, 0.585 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | dimethoxyethane | 15.0 mL | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 5.0 mL | C(OC)COC | C4H10O2
solvent | sodium carbonate | 2 M, 12.0 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.40 mmol, 0.462 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Benzoyl-9-phenyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 0.817 g, 56% | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC(=CC3C2CC1)C1=CC=CC=C1 | C25H22N2O
